Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Constipation
 
Major Surgical or Invasive Procedure:
paracentesis
omental biopsy

 
History of Present Illness:
Ms. ___ is a ___ woman with history of melanoma
who presents for constipation.

History is taken from the patient and her daughter, who is at 
the
bedside. The patient reports that she was in her usual state of
health until about 6 weeks ago, when she developed constipation
and lower abdominal pain. She presented to an urgent care at the
end of ___ and had a KUB that revealed a moderate amount of 
stool
without obstruction. She was advised to increase her fluid 
intake
and take stool softeners.

Initially, these interventions were effective, however, she
continued to have constipation. She also noticed progressively
worsening abdominal distention, and her pants became tight 
around
the waist. Her appetite has been stable, and she has had no
appreciable change in her weight. 

She also reports that she has noticed physical and cognitive
slowing over the past few years. Her daughter also reported that
she was dropping items, like her hand of cards while playing
Bridge. She went to see a geriatrician for these issues, and MRI
brain was obtained that showed multiple acute embolic infarcts.
Given these findings, a Holter monitor, TTE, and carotid
ultrasounds were ordered. The patient was also started on 
aspirin
81 mg daily and atorvastatin 40 mg daily.  

The patient continued to have abdominal discomfort, distention
and constipation, so presented to urgent care on ___/P was obtained that demonstrated an ovarian mass large volume
ascites with nodular masslike thickening of the omentum and
peritoneal masses in the abdomen and pelvis. The patient was
referred to the ED.

In the ED, she was hemodynamically stable. CBC, BMP, LFTs were
within normal limits. OB/Gyn was consulted, and recommended
sending tumor markers and paracentesis for cytology.

On arrival to the floor, the patient reports some abdominal
discomfort. She reports ongoing constipation, but states that 
she
was able to move her bowels today. She is aware of the suspected
diagnosis.

ROS: Pertinent positives and negatives as noted in the HPI. All
other systems were reviewed and are negative. 

 
Past Medical History:
- Melanoma (___)
- Osteoporosis
- S/p right hip total arthroplasty
 
Social History:
___
Family History:
- Father: colon cancer
- Mother: CVA
- Daughter: ___, liver disease
- Daughter: ___ disease
- No known family history of breast, uterine, ovarian cancer.
 
Physical Exam:
Admission Exam
====================
VITALS: 98.9 149/82 75 18 97 ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen firm, distended, non-tender to palpation. Multiple
palpable masses in abdomen. Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

Discharge Exam:
============================
VITALS: Temp: 98.1; BP 159/75; HR 76; RR 18; O2 99% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen firm, distended, non-tender to palpation. Multiple
palpable masses in abdomen. Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant and calm affect
 
Pertinent Results:
Admission Labs:
===============================
___ 10:30PM BLOOD WBC-9.6 RBC-4.32 Hgb-11.6 Hct-37.7 MCV-87 
MCH-26.9 MCHC-30.8* RDW-14.0 RDWSD-44.6 Plt ___
___ 10:30PM BLOOD ___ PTT-27.6 ___
___ 10:30PM BLOOD Glucose-118* UreaN-17 Creat-0.8 Na-139 
K-4.6 Cl-100 HCO3-24 AnGap-15
___ 10:30PM BLOOD ALT-9 AST-12 AlkPhos-85 TotBili-0.2
___ 10:30PM BLOOD Albumin-3.5 Calcium-9.2 Phos-3.7 Mg-2.0
___ 03:33AM BLOOD CEA-405.9* CA125-198*

Discharge Labs:
================================
___ 06:20AM BLOOD WBC-9.8 RBC-3.96 Hgb-10.8* Hct-34.2 
MCV-86 MCH-27.3 MCHC-31.6* RDW-14.2 RDWSD-44.1 Plt ___
___ 06:20AM BLOOD Glucose-92 UreaN-13 Creat-0.8 Na-139 
K-4.6 Cl-106 HCO3-24 AnGap-9*

Imaging:
================================
- MRI Brain (___):
IMPRESSION:
1. There is the suggestion of multiple acute embolic infarcts in
the right superior frontal, right parietal, and bilateral
parieto-occipital cortex.
2. There is extensive chronic microvascular ischemic change in
the periventricular white matter with multiple chronic lacunar
infarcts in the subcortical frontoparietal white matter
bilaterally. Chronic ischemic changes also noted in the basal
ganglia and pons.
3. Although the ventricles are enlarged out of proportion to the
sulci, there is no sulcal effacement. Findings suggest somewhat
disproportionate central atrophy.
4. Punctate focus of susceptibility artifact in the right
occipital lobe could be a small amount of mineralization of a
chronic infarct or a cavernoma.

- CT A/P (___):
 
IMPRESSION: Complex cystic mass in the pelvis in the midline and
slightly to the left compatible with ovarian mass. Large volume
ascites with nodular masslike thickening of the omentum and
peritoneal masses in the abdomen and pelvis. Appearance is most
compatible with ovarian malignancy with peritoneal spread.

- CT Chest w/o ___:
Impression: 1. No definitive metastatic disease in the chest. 
2. No central pulmonary embolism. 
3. Bilateral small pleural based opacities up to 0.6 cm are
indeterminate, metastases cannot be excluded, attention on
follow-up is recommended. 
4. 1.7 and 1.2 cm hypodense nodules in the right thyroid lobe. 
Please follow recommendations described below for follow-up. 
5. Large amount of ascites and peritoneal implant on the liver,
are incompletely evaluated on this study. 

Micro:
======================
peritoneal fluid ___

Cytology:
=======================
Omental Biopsy- pending
Ascites- pending

 
Brief Hospital Course:
Ms. ___ is a ___ woman history of melanoma who 
presents for constipation, found to have likely ovarian cancer 
with carcinomatosis.

# Abdominal pain
# Abdominal masses, suspected ovarian cancer: Patient presenting 
with abdominal pain, distention, and constipation. Found on 
outside imaging to have likely ovarian mass with ascites and 
peritoneal carcinomatosis. Ob/Gyn was consulted and recommended 
further evaluation with CT chest, tumor markers and biopsy. CT 
chest showed now obvious chest metastasis. Tumor markers CEA and 
CA 125 were elevated to 405 and 198 respectively. CA ___ was 
pending on discharge. ___ consulted and performed paracentesis 
and biopsy of omental mass with pathology/cytology pending on 
discharge. She remained stable so will follow up with Ob/Gyn as 
an outpatient to further discuss the results and go over further 
management. They will call to schedule appointment.

# CVA: Patient with recent brain MRI demonstrating multiple 
embolic infarcts. Continued home ASA 81mg daily and Lipitor 40mg 
daily.

#incidental findings- Found on CT chest to have multiple small 
pleural opacities not felt to be metastasis but could not be 
excluded. Also found to have two thyroid nodules largest 
measuring 1.7cm in right lobe. Consider thyroid US for further 
evaluation and repeat CT chest

Transitional Issues:
[ ] consider thyroid US to eval thyroid nodules
[ ] consider repeat CT in ___ months to eval pulm opacities
[ ] f/u cytology/pathology

Greater than 30 min spent on discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Vitamin D 1000 UNIT PO DAILY 
4. Psyllium Powder 1 PKT PO TID:PRN Constipation 
5. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Docusate Sodium 100 mg PO BID  
4.  Psyllium Powder 1 PKT PO TID:PRN Constipation  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
suspected metastatic ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain. You were found on imaging 
to have fluid in your abdomen called ascites and masses 
concerning for underlying cancer. You underwent a procedure 
called paracentesis to remove some of the fluid and biopsy of 
the masses which was pending on discharge. You remained stable 
so were discharged home. You were continued on your home 
medicatons as previously prescribed.

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___